US05198449
α-(4-Fluorophenyl)-N-(phenylmethyl)-1-(phenylsulfonyl)-4-piperidinemethanimine
A mixture of 10.32 g (0.0297 mol) of N-benzenesulfonyl-4-(p-fluorobenzoyl)piperidine, 5.4 g (0.0505 mol) of benzylamine and 0.5 g (0.0032 mol) of benzenesulfonic acid in 500 mL of toluene was heated at reflux. Water was removed from the reaction mixture with a Dean-Stark trap. After 134.5 h, the solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and dilute NaOH. The CH2Cl2 solution was dried (MgSO4), the volume was reduced to 100 mL, and 200 mL of ether was added. A precipitate was collected to give 10.0 g (77.1%) of the title compound as a white crystalline solid, mp 153°-155°C.

reactant | N-benzenesulfonyl-4-(p-fluorobenzoyl)piperidine | 0.0297 mol, 10.32 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C18H18FNO3S
reactant | benzylamine | 0.0505 mol, 5.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | benzenesulfonic acid | 0.0032 mol, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | α-(4-Fluorophenyl)-N-(phenylmethyl)-1-(phenylsulfonyl)-4-piperidinemethanimine | 10.0 g, 77.1% | FC1=CC=C(C=C1)C(=NCC1=CC=CC=C1)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C25H25FN2O2S
